US06329389B1
Dimethyl 2-[(2-nitrophenyl)methylidene]malonate
A methanol (300 ml) solution of o-nitrobenzaldehyde (103.1 g), dimethylmalonate (90.1 g), acetic acid (1.2 ml) and piperidine (12 ml) was heated under reflux for 25 hours. The reaction mixture was concentrated. Water was added to the mixture, which was extracted with ethylacetate. The organic layer was washed with 1N hydrochloric acid, water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, then dried and concentrated. The obtained crude crystals were washed with IPE to give the entitled compound (59.79 g). The mother liquor was further purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/2). The obtained crude crystals were recrystallized from ethyl acetate-hexane to give the entitled compound (34.13 g).

reactant | methanol | 300 ml | CO | CH4O
reactant | o-nitrobenzaldehyde | 103.1 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | dimethylmalonate | 90.1 g | CC(C(=O)[O-])(C(=O)[O-])C
reactant | piperidine | 12 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
product | Dimethyl 2-[(2-nitrophenyl)methylidene]malonate | 59.79 g | [N+](=O)([O-])C1=C(C=CC=C1)C=C(C(=O)OC)C(=O)OC | C12H11NO6
